US06884821B1
1.6 g of benzyl 5-(3-ethoxy-2-ethoxy-3-oxo-1-propenyl)-2-methoxybenzoate was dissolved in 30 ml ethanol, 0.35 g of 10% palladium-carbon was added, and the mixture was stirred for 16 hours in a hydrogen atmosphere. The catalyst was filtered through Celite and the solvent was evaporated. Then, the residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (2:1), 1.2 g of 5-(3-ethoxy-2-ethoxy-3-oxopropyl)-2-methoxybenzoic acid was obtained.

reactant | benzyl 5-(3-ethoxy-2-ethoxy-3-oxo-1-propenyl)-2-methoxybenzoate | 1.6 g | C(C)OC(C(=CC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC)OCC)=O | C22H24O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.35 g | [C].[Pd]
product | 5-(3-ethoxy-2-ethoxy-3-oxopropyl)-2-methoxybenzoic acid | 1.2 g | C(C)OC(C(CC=1C=CC(=C(C(=O)O)C1)OC)OCC)=O | C15H20O6
